US04328029
8.5 g (0.04 mol) of N-(pyrimidin-2-yl-methyl)-2,6-dimethylaniline and 3.2 g (0.04 mol) of pyridine were heated under reflux in 20 ml of tetrahydrofuran. 4.5 g (0.04 mol) of chloroacetyl chloride were added dropwise to this mixture. The reaction mixture was stirred under reflux for 5 hours and then poured onto 300 g of ice. The crystalline precipitate formed was filtered off, washed with water and recrystallized from carbon tetrachloride. 8.2 g (71% of theory) of 2,6-dimethyl-N-(pyrimidin-2-yl-methyl)-chloroacetanilide were obtained in the form of colorless crystals of melting point 110° C.

reactant | N-(pyrimidin-2-yl-methyl)-2,6-dimethylaniline | 0.04 mol, 8.5 g | N1=C(N=CC=C1)CNC1=C(C=CC=C1C)C | C13H15N3
reactant | pyridine | 0.04 mol, 3.2 g | N1=CC=CC=C1 | C5H5N
reactant | chloroacetyl chloride | 0.04 mol, 4.5 g | ClCC(=O)Cl | C2H2Cl2O
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2,6-dimethyl-N-(pyrimidin-2-yl-methyl)-chloroacetanilide | 8.2 g, 71% | CC(C(=O)N(C1=CC=CC=C1)CC1=NC(=CC=N1)C)Cl | C15H16ClN3O
